US07718693B2
1-(1,1-Dimethylethyl) 2-methyl-5-oxo-4-(phenylmethyl)-1,2-pyrrolidinedicarboxylate (0.415 g, 1.24 mmol) was dissolved in 4M hydrogen chloride in dioxane (2 ml) and stirred at room temperature for 2 hrs. The solvent was evaporated to give a colourless oil which crystallized on standing to give methyl-5-oxo-4-(phenylmethyl)-prolinate as a creamy/white solid (0.205 g). This was used without further purification in the next step.

reactant | 1-(1,1-Dimethylethyl) 2-methyl-5-oxo-4-(phenylmethyl)-1,2-pyrrolidinedicarboxylate | 1.24 mmol, 0.415 g | CC1(N(C(C(C1)CC1=CC=CC=C1)=O)C(=O)OC(C)(C)C)C(=O)[O-]
reactant | dioxane | 2 ml | O1CCOCC1 | C4H8O2
solvent | hydrogen chloride | 4M | Cl | ClH
product | methyl-5-oxo-4-(phenylmethyl)-prolinate | 0.205 g | COC([C@H]1NC(C(C1)CC1=CC=CC=C1)=O)=O | C13H15NO3
